US07135475B2
A solution of 1-trityl-1H-[1,2,4]triazole-3-carboxylic acid (51 mg, 0.65 mmol) in N,N-dimethylformamide (0.8 mL) at 25° C. was treated with 1-hydroxybenzotriazole hydrate (19.3 mg, 0.14 mmol) and O-benzotriazol-1-yl-N,N,N′N′-tetramethyluronium hexafluorophosphate (54 mg, 0.14 mmol). The resulting mixture was cooled to 0° C. and then treated with the hydrochloric acid salt of N-[6-amino-1-butyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-2-(4-amino-phenyl)-acetamide (62 mg, 0.13 mmol) and N,N-diisopropylethylamine (0.11 mL, 0.65 mmol). The reaction was stirred at 0° C. for 1 h and then at 25° C. for 4.5 h. At this time, the reaction was concentrated in vacuo. The residue was dissolved in dichloromethane (50 mL) and washed with a saturated aqueous sodium bicarbonate solution (1×15 mL) and a saturated aqueous sodium chloride solution (1×20 mL). The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–00 mesh, 93:7 dichloromethane/methanol) afforded 1-trityl-1H-[1,2,4]triazole-3-carboxylic acid (4-{[6-amino-1-butyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl]-methyl}-phenyl)-amide (67.9 mg, 68%) as a pale yellow solid: FAB-HRMS m/e calcd for C45H41N8O4F (M+Na)+ 799.3133, found 799.3113.

reactant | 1-trityl-1H-[1,2,4]triazole-3-carboxylic acid | 0.65 mmol, 51 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=C1)C(=O)O | C22H17N3O2
reactant | 1-hydroxybenzotriazole hydrate | 0.14 mmol, 19.3 mg | O.ON1N=NC2=C1C=CC=C2
reactant | hydrochloric acid | Cl | ClH
reactant | N-[6-amino-1-butyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-2-(4-amino-phenyl)-acetamide | 0.13 mmol, 62 mg | NC1=C(C(N(C(N1CCCC)=O)CC1=C(C=CC=C1)F)=O)NC(CC1=CC=C(C=C1)N)=O | C23H26FN5O3
reactant | N,N-diisopropylethylamine | 0.65 mmol, 0.11 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 0.8 mL | CN(C=O)C | C3H7NO
product | 1-trityl-1H-[1,2,4]triazole-3-carboxylic acid (4-{[6-amino-1-butyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl]-methyl}-phenyl)-amide | 67.9 mg, 68% | NC1=C(C(N(C(N1CCCC)=O)CC1=C(C=CC=C1)F)=O)NC(=O)CC1=CC=C(C=C1)NC(=O)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H41FN8O4
